* Copyright (c) 1998-2023 Analog Devices, Inc.  All rights reserved.
*
.subckt AD734 1 2 3 4 5 6 7 8 9 10 11 12 13 14
CINX 1 2 2p
CINY 6 7 2p
CINZ 11 12 2p
IBZ1 11 0 50n
IBZ2 12 0 50n
QU1 14 3 4 0 QNU
RU1 4 5 28k
VU 14 N049 0
QU2 N049 0 N051 0 QNU
RU2 N051 9 1m
IU N051 8 10µ
FU1 MID VU VU 1.01
RU3 VU MID 1Meg
VR1 N054 8 8
QR N052 N054 13 0 QPU
EU U MID POLY(3) 4 5 VU MID VR2 MID (0,1.0101,1,1.0101)
RU5 U MID 1Meg
RR N054 13 100k
VR2 N052 8 0
FU4 MID VR2 VR2 1
RU4 VR2 MID 28k
IDC N060 N064 4.0125m
RDC1 N060 N061 3.2k
RDC2 N061 N064 3.2k
R3 N064 8 1µ Noiseless
R4 N060 14 1µ Noiseless
G1 0 N057 N060 0 1
G2 0 N062 N064 0 1
R5 N057 0 1 Noiseless
R6 N062 0 1 Noiseless
R7 N058 N057 1Meg Noiseless
R8 N058 N062 1Meg Noiseless
C3 MID 0 1n
E1 MID 0 N058 0 1
R9 MID 0 1Meg Noiseless
C4 N058 0 1
C5 N062 0 1n
C6 N057 0 1n
IBX3 1 0 50n
IBX4 2 0 50n
RX4 1 N024 25k
RX5 N024 2 25k
GX2 MID X N008 2 1µ
RX6 X MID 999.5k
CX2 X MID 3.9809f
RCMX3 N026 CMRx 1Meg
CCMX1 N026 CMRx 3.9789p
RCMX4 CMRx MID 1
IBY3 6 0 50n
IBY4 7 0 50n
RY4 6 N045 25k
RY5 N045 7 25k
GY2 MID Y N039 7 1µ
RY6 Y MID 999.5k
CY2 Y MID 3.9809f
RCMY3 N047 CMRy 1Meg
CCMY1 N047 CMRy 1.9895p
RCMY4 CMRy MID 1
RXY1 XY MID 1k
G6 MID N006 1 MID 1k
R18 N006 MID 1m
C12 N006 MID 1p
G7 N006 N007 CMRx MID 1m
R19 N007 N006 1k
G8 MID N037 6 MID 1k
R20 N037 MID 1m
C13 N037 MID 1p
G9 N037 N038 CMRy MID 1m
R21 N038 N037 1k
G_ECMX1 MID N026 N024 MID 56.234k
R22 N026 MID 1m
G_ECMY1 MID N047 N045 MID 56.234k
R23 N047 MID 1m
I1 N007 N008 15µ
R24 N008 N007 1k
I2 N038 N039 10µ
R25 N039 N038 1k
B1 MID XY I=1m*V(X,MID)* V(Y,MID)
C14 XY MID 1f
RZ1 11 N036 25k
RZ2 N036 12 25k
GY1 MID Z N028 12 1µ
RY3 Z MID 999.5k
CY1 Z MID 3.9809f
RCMZ1 N042 CMRz 1Meg
CCMZ N042 CMRz 3.9789p
RCMZ2 CMRz MID 1
G4 MID N030 11 MID 1k
R11 N030 MID 1m
C8 N030 MID 1p
G5 N030 N029 CMRz MID 1m
R12 N029 N030 1k
G_ECMZ MID N042 N036 MID 56.234k
R13 N042 MID 1m
I3 N029 N028 20µ
R14 N028 N029 1k
QW5 14 0 N023 0 QNW
QW6 8 0 N013 0 QPW
QW7 N003 N013 N017 0 QNW
QW8 N014 N023 N017 0 QPW
RW6 14 N003 1
RW7 N014 8 1
IW3 14 N013 100µ
IW4 N023 8 100µ
VW3 14 N001 10
DW3 N001 N003 DX
VW4 N027 8 10
DW4 N014 N027 DX
GW4 MID N009 14 N003 1
RW8 N009 MID 1.38k
CW3 N009 MID 19n
VW5 14 N002 3.8
DW5 N009 N002 DX
VW6 N020 8 3.8
DW6 N020 N009 DX
DCC1 N031 14 DX
GCC1 0 N031 N016 MID 1
DCC2 0 N031 DX
DEE1 N032 0 DX
GEE1 N032 0 MID N016 1
DEE2 8 N032 DX
GW5 MID N010 N009 MID 1µ
RW9 N010 MID 1Meg
CW4 N010 MID 9.0946f
DO1 14 N005 DX
GO1 N005 8 N011 N010 25m
DO2 8 N005 DY
DO3 14 N004 DX
DO4 8 N004 DY
VSC1 N018 N011 0.4
DSC1 N010 N018 DX
VSC2 N011 N019 0.4
DSC2 N019 N010 DX
GO2 N011 14 14 N010 25m
GO3 8 N011 N010 8 25m
RO1 14 N011 40
RO2 N011 8 40
LO1 N011 10 100n
GO4 N004 N011 N010 N011 25m
GW6 N017 MID N016 MID 1
GW7 N009 MID N014 8 1
VX1 14 N021 3.1875
DX1 X N021 DX
VX2 N022 8 3.1875
DX2 N022 X DX
VY1 14 N043 3.1875
DY1 Y N043 DX
VY2 N044 8 3.1875
DY2 N044 Y DX
VZ1 14 N034 3.1875
DZ1 Z N034 DX
VZ2 N035 8 3.1875
DZ2 N035 Z DX
B2 MID XY/U I=1m*V(XY,MID)/ V(U,MID)
R16 XY/U MID 1k
C7 XY/U MID 637f
R17 N016 MID 1k
G3 MID N016 XY/U Z 1m
.model QNU NPN (BF=100 IS=0.1f)
.model QPU PNP (BF=100 IS=0.1f)
.model QNW NPN (BF=1G IS=1f)
.model QPW PNP (BF=1G IS=1f)
.model DX D(IS=1f)
.model DY D(IS=1f BV=50)
.ends AD734
