* Copyright (c) 1998-2024 Analog Devices, Inc.  All rights reserved.
*
.subckt AD8397 1 2 3 4 5
Cinp MID INp {Ccm}
Cinn INn MID {Ccm}
R21 2 INn {Rser} Noiseless
R22 1 INp {Rser} Noiseless
Cdiff INp INn {Cdiff}
C9 Clamp MID {Cfp1}
A1 INn N009 MID MID MID MID Avo1 MID OTA G=100u Iout=1m Vhigh=1k Vlow=-1k
Rcmp MID INp {Rcm} Noiseless
Rcmn MID INn {Rcm} Noiseless
Rdiff INn INp {Rdiff} Noiseless
C10 Avo1 MID 1f
Rx1 ZO AO2 {Rx_Zo} Noiseless
Rdummy1 ZO MID {Rdummy_Zo} Noiseless
R1 AO2 MID 1 Noiseless
B1 MID AO2 I=Uplim(Dnlim({G1_Zo}* V(AO,ZO),{IZon},25m),{IZop},25m)
B2 MID Clamp I=Uplim(Dnlim({Avo2/1Meg}* V(Avo1,MID),{Isink},1u),{Isrc},1u)
R63 Avo1 MID 1Meg Noiseless
R31 5 ZO 1m
R32 N012 MID 1Meg Noiseless
G14 MID N012 Clamp MID 1µ
C1 N012 MID {Cfp3}
R2 N013 MID 1Meg Noiseless
G1 MID N013 N012 MID 1µ
C2 N013 MID {Cfp3}
R3 N014 MID 1Meg Noiseless
G2 MID N014 N013 MID 1µ
C3 N014 MID {Cfp3}
R4 N015 MID 1Meg Noiseless
G3 MID N015 N014 MID 1µ
C4 N015 MID {Cfp3}
R5 N016 MID 1Meg Noiseless
G4 MID N016 N015 MID 1µ
C5 N016 MID {Cfp3}
R6 N017 MID 1Meg Noiseless
G5 MID N017 N016 MID 1µ
C6 N017 MID {Cfp3}
R7 N018 MID 1Meg Noiseless
G6 MID N018 N017 MID 1µ
C7 N018 MID {Cfp3}
R8 N019 MID 1Meg Noiseless
G7 MID N019 N018 MID 1µ
C12 N019 MID {Cfp4}
R9 AO MID 1Meg Noiseless
G8 MID AO N019 MID 1µ
C13 AO MID {Cfp4}
R10 N007 N006 1Meg Noiseless
B3 N006 N007 I=1u*({Vos+(Drift*(temp-27))})
B4 INp MID I={Ib}
B5 INn MID I={Ib+Ios}
G9 0 Vcc_Int N033 0 1
G10 0 Vee_Int N036 0 1
R11 Vcc_Int 0 1
R12 Vee_Int 0 1
C14 Vcc_Int 0 1n
C15 Vee_Int 0 1n
R13 N031 Vcc_Int 1Meg
R14 N031 Vee_Int 1Meg
C16 N031 0 1
R15 MID 0 1Meg
R16 3 N033 1µ
R17 N036 4 1µ
E1 MID 0 N031 0 1
B6 N033 N036 I=9m
C8 N027 N026 {C1a_PSRn}
G11 MID N026 4 MID {G1_PSRn}
R18 N026 MID 1 Noiseless
R19 N027 N026 {R1a_PSRn} Noiseless
R20 N027 MID {R2a_PSRn} Noiseless
R23 N027 N028 {R1b_PSRn} Noiseless
R24 N028 MID {R2b_PSRn} Noiseless
G12 MID PSRn N028 MID {G2_PSRn}
C11 N028 N027 {C1b_PSRn}
R25 PSRn MID 1 Noiseless
G13 MID N027 N027 MID 1
R26 N027 MID 1 Noiseless
C17 N030 N029 {C1a_PSRp}
G15 MID N029 3 MID {G1_PSRp}
R27 N029 MID 1 Noiseless
R29 N030 N029 {R1a_PSRp} Noiseless
R30 N030 MID {R2a_PSRp} Noiseless
G16 MID PSRp N030 MID 1
R33 PSRp MID 1 Noiseless
R34 N009 N008 1Meg Noiseless
G17 N008 N009 PSRp PSRn 1µ
G18 MID N034 3 4 1m
R35 N034 MID 1k Noiseless
A2 N034 MID MID MID MID MID VminMID MID SCHMITT Vt={Vsmin-5m} Vh=5m Trise=5n
A3 N034 MID MID MID MID VmaxMID MID MID SCHMITT Vt={Vsmax+5m} Vh=5m Trise=5n
A4 MID VminMID MID VmaxMID MID MID EN MID AND Trise=5n
R36 MID VminMID 1G Noiseless
R37 VmaxMID MID 1G Noiseless
R38 EN MID 1G
S1 MID Clamp EN MID ENA
C18 N002 N001 {C1a_CMR}
G19 MID N001 INp MID {G1_CMR}
R28 N001 MID 1 Noiseless
R39 N002 N001 {R1a_CMR} Noiseless
R40 N002 MID {R2a_CMR} Noiseless
R41 N003 MID 1 Noiseless
G20 MID N003 N002 MID 1
R42 N003 N004 {R1b_CMR} Noiseless
R43 N004 MID {R2b_CMR} Noiseless
G21 MID N005 N004 MID {G2_CMR}
C19 N004 N003 {C1b_CMR}
R44 N005 MID 1 Noiseless
R45 N008 N007 1Meg Noiseless
G22 N007 N008 N005 MID 1µ
R46 e_n MID 100k Noiseless
A5 MID MID MID MID MID MID e_n MID OTA G=10u Iout=1m En={En} Enk={Enk} Vhigh=1k Vlow=-1k
R47 N006 INp 1Meg Noiseless
G23 INp N006 e_n MID 1µ
A6 MID INn MID MID MID MID MID MID OTA G=0 In={In} Ink={Ink}
A7 MID INp MID MID MID MID MID MID OTA G=0 In={In} Ink={Ink}
C20 Vsatp MID 1n
C21 Vsatn MID 1n
R49 Vsatp MID 1m Noiseless
G24 MID Vsatp satp1 MID 1k
R50 Vsatn MID 1m Noiseless
G25 MID Vsatn satn1 MID 1k
B7 satp1 3 I=1m*Table(V(Vimon,MID),49.2m,89m,187.6m,332m)
R51 satp1 3 1k
C22 satp1 3 1n
B8 4 satn1 I=1m*Table(-V(Vimon,MID),48.8m,130m,196m,120m)
R52 satn1 4 1k
C23 satn1 4 1n
D1 Vsatp ZO DO
D2 ZO Vsatn DO
B9 vimon MID I=1m*I(R31)
R48 vimon MID 1k Noiseless
C24 vimon MID 1n
G26 MID N021 ORp MID 1k
G27 MID N023 ORn MID 1k
D3 N021 N022 DG
D4 N022 N023 DG
R53 N021 MID 1m
R54 N023 MID 1m
I1 N025 ORn {1m*ORn}
R55 ORn N025 1k
I2 N024 ORp {1m*ORp}
R56 ORp N024 1k
C25 ORp N024 1p
C26 ORn N025 1p
Rgs Clamp N022 1µ
R57 N024 MID 1m
G28 MID N024 ZO MID 1k
R58 N025 MID 1m
G29 MID N025 ZO MID 1k
.param Avo=100
.param SRp=119 SRn={-SRp}
.param fp1=675 fp2=800Meg fp3=880Meg fp4=1G
.param Rser=1m
.param Ccm=1.2p Rcm=87k
.param Cdiff=1f Rdiff=0.5G
.param Avo2_dB = {Avo-40+1}
.param Avo2 = {pwr(10, (Avo2_dB)/20)}
.param Cfp1={1 / (2 * pi * fp1 * 1Meg)}
.param Cfp2={1 / (2 * pi * fp2 * 1Meg)}
.param Cfp3={1 / (2 * pi * fp3 * 1Meg)}
.param Cfp4={1 / (2 * pi * fp4 * 1Meg)}
.param Isrc = {Cfp1 * SRp * 1Meg} Isink = {Cfp1 * SRn * 1Meg}
.param beta_Zo=1.12
.param Rx_Zo = {100 * Zo_max}
.param Rdummy_Zo = {10 * Zo_max}
.param G1_Zo={Rx_Zo/(Zo_dc*beta_Zo)}
.param IZop={Rx_Zo*Iscp} IZon={Rx_Zo*Iscn}
.param Iscp=310m Iscn=-310m
.param Zo_dc=25
.param Zo_max={Zo_dc}
.model ESDI SW(Ron=50 Roff=1T Vt=31.6 Vh=-500m Vser=0.1 Noiseless)
.model ESDO SW(Ron=50 Roff=1G Vt=0.5 Vh=-0.1 Vser=0.6 Ilimit=4m Lser=1n Noiseless)
.model DO D(Vfwd=1k Vrev=0 Revepsilon=0.1 Ron=1m Noiseless)
.model LIM D(Vfwd=1n Vrev=1n Ron=1m Roff=1m Ilimit={Iscp} Revilimit={-Iscn} Epsilon=1u Revepsilon=1u Noiseless)
.model ENA SW(Ron=1Meg Roff=1u Vt=500m Vh=-100m Noiseless)
.model DG D(Vfwd=10k Vrev=0 Revepsilon=0.5 Ron=1m Noiseless)
.param Vos=0.3m Drift=1u
.param Ib=200n Ios=39n
.param gain_PSRn = {pow(10, (-Rej_dc_PSRn/20))}
.param C1a_PSRn = {1 / (2 * pi * R1a_PSRn * fz1_PSRn)}
.param R2a_PSRn = {R1a_PSRn/ ((2 * pi * fp1_PSRn * C1a_PSRn
+* R1a_PSRn) - 1)}
.param actual1_PSRn = {R2a_PSRn / (R1a_PSRn + R2a_PSRn)}
.param G1_PSRn = {gain_PSRn/actual1_PSRn}
.param Rej_dc_PSRn=85
.param R1a_PSRn=1Meg
.param fz1_PSRn=4k
.param fp1_PSRn=5.5Meg
.param R1b_PSRn=1Meg
.param fz2_PSRn=2Meg
.param fp2_PSRn=5.5Meg
.param C1b_PSRn={1 / (2 * pi * R1b_PSRn * fz2_PSRn)}
.param R2b_PSRn = {R1b_PSRn/ ((2 * pi * fp2_PSRn * C1b_PSRn * R1b_PSRn) - 1)}
.param actual2_PSRn = {R2b_PSRn / (R1b_PSRn + R2b_PSRn)}
.param G2_PSRn= {1/actual2_PSRn}
.param gain_PSRp = {pow(10, (-Rej_dc_PSRp/20))}
.param C1a_PSRp = {1 / (2 * pi * R1a_PSRp * fz1_PSRp)}
.param R2a_PSRp = {R1a_PSRp/ ((2 * pi * fp1_PSRp * C1a_PSRp
+* R1a_PSRp) - 1)}
.param actual1_PSRp = {R2a_PSRp / (R1a_PSRp + R2a_PSRp)}
.param G1_PSRp = {gain_PSRp/actual1_PSRp}
.param Rej_dc_PSRp=81
.param R1a_PSRp=100k
.param fz1_PSRp=3.7k
.param fp1_PSRp=10Meg
.param Vsmin=3 Vsmax=25
.param gain_CMR = {pow(10, (-Rej_dc_CMR/20))}
.param C1a_CMR = {1 / (2 * pi * R1a_CMR * fz1_CMR)}
.param R2a_CMR = {R1a_CMR/ ((2 * pi * fp1_CMR * C1a_CMR
+* R1a_CMR) - 1)}
.param actual1_CMR = {R2a_CMR / (R1a_CMR + R2a_CMR)}
.param G1_CMR = {gain_CMR/actual1_CMR}
.param Rej_dc_CMR=95
.param R1a_CMR=100Meg
.param fz1_CMR=9.5k
.param fp1_CMR=50Meg
.param R1b_CMR=1Meg
.param fz2_CMR=1G
.param fp2_CMR=55Meg
.param C1b_CMR={1 / (2 * pi * R1b_CMR * fz2_CMR)}
.param R2b_CMR = {R1b_CMR/ ((2 * pi * fp2_CMR * C1b_CMR
+* R1b_CMR) - 1)}
.param actual2_CMR = {R2b_CMR / (R1b_CMR + R2b_CMR)}
.param G2_CMR= {1/actual2_CMR}
.param En=4.5n Enk=10
.param In=1.5p Ink=10
.PARAM ORp=8 ORn={-ORp}
.ends AD8397
